US06610704B1
Preparation of N1-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzendiamine
A solution of 2-fluoronitrobenzene (0.13 mL, 1.3 mmol) and 1-(4-pyridyl)piperidine-4-methylamine (242 mg, 1.27 mmol) in DMF (5 mL) was treated with potassium carbonate (175 mg, 1.3 mmol). After 16 h, the mixture was diluted with EtOAc, the organic layer was washed with water (3×), brine, dried with K2CO3, and concentrated. The residue was dissolved in 5% HOAc in MeOH and loaded onto an SCX ion exchange column. Elution with MeOH followed by 2 M NH3 in MeOH yielded 200 mg of the title compound; which was used without further purification.

reactant | 2-fluoronitrobenzene | 1.3 mmol, 0.13 mL | FC1=C(C=CC=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 1-(4-pyridyl)piperidine-4-methylamine | 1.27 mmol, 242 mg | N1=CC=C(C=C1)N1CCC(CC1)CN | C11H17N3
reactant | potassium carbonate | 1.3 mmol, 175 mg | C([O-])([O-])=O.[K+].[K+]
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | N1-(4-Methoxybenzoyl)-N2-[1-(4-pyridyl)piperidin-4-ylmethyl]-1,2-benzendiamine | 200 mg | COC1=CC=C(C(=O)NC=2C(=CC=CC2)NCC2CCN(CC2)C2=CC=NC=C2)C=C1 | C25H28N4O2
